US07138410B2
N-[4′-(Hydroxymethyl)-1,1′-biphenyl-4-yl]-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride
90 mg (0.26 mmol) of N-(4-bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride, 50 mg (0.31 mmol) of 4-(hydroxymethyl)phenylboronic acid, 190 mg (0.57 mmol) of cesium carbonate and 20 mg (0.03 mmol) of bis(diphenylphosphino)ferrocenepalladium(II) chloride are reacted in 1 ml of 1,2-dimethoxyethane by the general method. 5.9 mg (6% of theory) of the title compound are obtained.

reactant | N-(4-bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride | 0.26 mmol, 90 mg | Cl.BrC1=CC=C(C=C1)NC(=O)C1CN2CCC1CC2
reactant | 4-(hydroxymethyl)phenylboronic acid | 0.31 mmol, 50 mg | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | cesium carbonate | 0.57 mmol, 190 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,2-dimethoxyethane | 1 ml | COCCOC | C4H10O2
product | N-[4′-(Hydroxymethyl)-1,1′-biphenyl-4-yl]-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride | Cl.OCC1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C1CN2CCC1CC2 | InChI=1S/C21H24N2O2.ClH/c24-14-15-1-3-16(4-2-15)17-5-7-19(8-6-17)22-21(25)20-13-23-11-9-18(20)10-12-23;/h1-8,18,20,24H,9-14H2,(H,22,25);1H
